US08487108B2
To a solution of (R)-2,5-dihydro-3,6-dimethoxy-2-isopropylpyrazine in THF at −78° C., n-BuLi (16 mL, 2.5 M in Hexanes) was added dropwise. The mixture was stirred for 1 h and a solution of 2-(iodomethyl)tetrahydro-2H-pyran in THF (6 mL) was added. The reaction flask was transferred to a −20° C. freezer and allowed to stir for 72 h. The reaction was quenched with satd aq NH4Cl and the aqueous solution was extracted with ether. The combined organic layers were dried over Na2SO4. The solvent was removed under reduced pressure and the crude product was purified by chromatography on silica gel (EtOAc/Hex). The product was dissolved in acetonitrile (50 mL) and 2 M aq HCl (50 mL) and stirred at rt for 4 h. The solvent was evaporated and the crude material redissolved in water (100 mL) and THF (100 mL). The solution was chilled to 0° C. and K2CO3 (23 g, 166 mmol) was added in portions, followed by addition of di-tert-butyl dicarbonate (22.6 g, 104 mmol). The mixture was allowed to warm rt and stirred for several hours. The aqueous layer was extracted with EtOAc (3 x). The combined organic layers were washed with brine, dried over MgSO4, filtered, and concentrated. The crude product was purified by chromatography on silica gel (EtOAc/Hex) to afford (2S)-methyl 2-(tert-butoxycarbonylamino)-3-(tetrahydro-2H-pyran-2-yl)propanoate (6.61 g). MS m/z 310 (M+Na).

reactant | (R)-2,5-dihydro-3,6-dimethoxy-2-isopropylpyrazine | COC=1[C@H](N=C(CN1)OC)C(C)C | C9H16N2O2
reactant | n-BuLi | 2.5 M, 16 mL | [Li]CCCC
reactant | 2-(iodomethyl)tetrahydro-2H-pyran | ICC1OCCCC1 | C6H11IO
reactant | K2CO3 | 166 mmol, 23 g | C(=O)([O-])[O-].[K+].[K+]
reactant | di-tert-butyl dicarbonate | 104 mmol, 22.6 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | (2S)-methyl 2-(tert-butoxycarbonylamino)-3-(tetrahydro-2H-pyran-2-yl)propanoate | 6.61 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)OC)CC1OCCCC1 | C14H25NO5
